US08877968B2
To 300 mg (0.90 mmol) of 2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxy-phenyl)propanoic acid dissolved in 3.5 mL of dichloromethane and 1.5 mL of dimethylformamide are added 0.46 mL (2.7 mmol) of diisopropylethylamine, 318 mg (0.99 mmol) of TBTU and 220 mg (0.99 mmol) of 4-cyano-4-phenylpiperidine hydrochloride. After 16 hours, the solution is washed with saturated sodium hydrogen carbonate solution and the organic products are extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered and concentrated. The crude product obtained is purified by filtration on a pad of silica (eluent: 7/3 dichloromethane/methanol). 75 mg of 1-[2-(4-cyano-4-phenylpiperidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]-3-[2-(1H-imidazol-4-yl)ethyl]urea in the form of a white powder are obtained in a yield of 17%.

reactant | 2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxy-phenyl)propanoic acid | 0.90 mmol, 300 mg | N1C=NC(=C1)CCNC(NC(C(=O)O)CC1=CC=C(C=C1)OC)=O | C16H20N4O4
reactant | diisopropylethylamine | 2.7 mmol, 0.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | 0.99 mmol, 318 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-cyano-4-phenylpiperidine hydrochloride | 0.99 mmol, 220 mg | Cl.C(#N)C1(CCNCC1)C1=CC=CC=C1
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 1-[2-(4-cyano-4-phenylpiperidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]-3-[2-(1H-imidazol-4-yl)ethyl]urea | 75 mg, yield of 17% | C(#N)C1(CCN(CC1)C(C(CC1=CC=C(C=C1)OC)NC(=O)NCCC=1N=CNC1)=O)C1=CC=CC=C1 | C28H32N6O3
